US04456465
In the same way, 2,2-dimethyl(thiopropionyl)oxymethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate is reacted with phosphorus pentasulfide to yield O-[2,2-dimethyl(thiopropionyl)oxymethyl] P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinothioate.

reactant | 2,2-dimethyl(thiopropionyl)oxymethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | C(C)P(OCOC(C(C)(C)C)=S)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C21H22ClF3NO6PS
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | O-[2,2-dimethyl(thiopropionyl)oxymethyl] P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinothioate | C(C)P(OCOC(C(C)(C)C)=S)(=S)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C21H22ClF3NO5PS2
